US06140274
First, 0.39 g of 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde was dissolved in 10 ml of anhydrous methanol, to which 5 mg of ammonium chloride was added, and the mixture was heated under reflux for 3 hours After left alone for cooling, the reaction mixture was mixed with 10 ml of saturated aqueous sodium hydrogencarbonate solution. The methanol was distilled out, and the residue was extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.31 g of 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-dimethoxyethoxy)butyloxy)benzene (yield, 71%), nD24.0 1.5068.

reactant | 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 0.39 g | C(C)C1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)CC | C19H26Cl2O4
reactant | ammonium chloride | 5 mg | [Cl-].[NH4+]
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | methanol | 10 ml | CO | CH4O
product | 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-dimethoxyethoxy)butyloxy)benzene | 0.31 g, 71% | C(C)C=1C=C(C=C(C1OCCCCOCC(OC)OC)CC)OCC=C(Cl)Cl | C21H32Cl2O5
